US07550629B2
A. 2-Amino-4,4,4-trifluoro-3-methyl-butyric acid ethyl ester
Sodium azide (1.9 g, 28.7 mmol) and ethyl 2-bromo-3-methyl-4,4,4-trifluorobutyrate (5 g, 19.2 mmol) were placed in DMF (20 mL) and stirred for 48 h. The mixture was diluted with EtOAc (200 mL) and washed with brine (4×100 mL). The organic layer was dried over Na2SO4 and solvent removed. The crude oil was placed in EtOH (20 mL) with 5% Pd/C (1.6 g) and shaken for 6 hours under H2 (50 psi). The reaction was filtered through the Celite® reagent and the solvent was removed providing a clear oil (1.9 g) in 50% yield.

reactant | Sodium azide | 28.7 mmol, 1.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 2-bromo-3-methyl-4,4,4-trifluorobutyrate | 19.2 mmol, 5 g | BrC(C(=O)OCC)C(C(F)(F)F)C | C7H10BrF3O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-4,4,4-trifluoro-3-methyl-butyric acid ethyl ester | 1.9 g, 50% yield | C(C)OC(C(C(C(F)(F)F)C)N)=O | C7H12F3NO2
